US08017602B2
A solution of (R)-3-methylbutan-2-amine (10.50 g) and 2,2-dimethoxyacetaldehyde (18.18 mL) in methanol (50 mL) was added to palladium on carbon (3 g) in water (3.0 mL) at 25° C. The mixture was hydrogenated under 5 bar at 25° C. for 24 h. The reaction mixture was filtered through Celite and concentrated under vacuum to afford (R)—N-(2,2-dimethoxyethyl)-3-methylbutan-2-amine as a colourless liquid (16.40 g). 1H NMR (300 MHz, CDCl3) δ 4.47 (t, J=5.6 Hz, 1H), 3.39 (s, 6H), 2.77 (dd, J=11.9, 5.4 Hz, 1H), 2.66 (dd, J=11.9, 6.0 Hz, 1H), 2.44 (qd, J=6.4, 5.1 Hz, 1H), 1.75-1.63 (m, 1H), 0.96 (d, J=6.3 Hz, 3H), 0.90 (d, J=6.9 Hz, 3H), 0.86 (d, J=6.9 Hz, 3H).

reactant | (R)-3-methylbutan-2-amine | 10.50 g | CC([C@@H](C)N)C | C5H13N
reactant | 2,2-dimethoxyacetaldehyde | 18.18 mL | COC(C=O)OC | C4H8O3
solvent | methanol | 50 mL | CO | CH4O
catalyst | palladium on carbon | 3 g | [Pd] | Pd
solvent | water | 3.0 mL | O | H2O
product | (R)—N-(2,2-dimethoxyethyl)-3-methylbutan-2-amine | 16.40 g | COC(CN[C@H](C)C(C)C)OC | C9H21NO2
